US08222416B2
A mixture of 5-fluoro-2-[1-(4-methanesulfonyl-phenyl)-3-methyl-but-1-enyl]-1H-pyrrolo[2,3-b]pyridine (600 mg, 1.67 mmol) and 10% palladium on activated carbon (180 mg) in methanol (300 mL) was heated at 50° C. under hydrogen (50 psi) for 6 h. The mixture was cooled to 25° C., the solids filtered off, washed with ethyl acetate and concentrated in vacuo. Purification using a Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% ammonium hydroxide in water) afforded 5-fluoro-2-[1-(4-methanesulfonyl-phenyl)-3-methyl-butyl]-1H-pyrrolo[2,3-b]pyridine (380 mg, 63%) as a white solid: LC/MS m/e calcd for C19H21FN2O2S [M+H]+ 361.45, observed 361.0; 1H NMR (400 MHz, CDCl3) δ ppm 11.77 (br. s., 1H), 8.16 (br. s., 1H), 7.97-8.01 (m, 1H), 7.90 (d, J=8.1 Hz, 2H), 7.52-7.60 (m, 2H), 6.52 (s, 1H), 4.45 (t, J=7.8 Hz, 1H), 3.03-3.07 (m, 3H), 1.98-2.16 (m, 2H), 1.50 (dt, J=13.5, 6.6 Hz, 1H), 0.95-1.02 (m, 6H).

reactant | 5-fluoro-2-[1-(4-methanesulfonyl-phenyl)-3-methyl-but-1-enyl]-1H-pyrrolo[2,3-b]pyridine | 1.67 mmol, 600 mg | FC=1C=C2C(=NC1)NC(=C2)C(=CC(C)C)C2=CC=C(C=C2)S(=O)(=O)C | C19H19FN2O2S
catalyst | palladium on activated carbon | 180 mg | [Pd] | Pd
solvent | methanol | 300 mL | CO | CH4O
product | 5-fluoro-2-[1-(4-methanesulfonyl-phenyl)-3-methyl-butyl]-1H-pyrrolo[2,3-b]pyridine | 380 mg, 63% | FC=1C=C2C(=NC1)NC(=C2)C(CC(C)C)C2=CC=C(C=C2)S(=O)(=O)C | C19H21FN2O2S
